US05344843
A solution of 4-[3-[3-hydroxy-4-(methoxycarbonyl)-2-propylphenoxy)propoxy]-alphaoxobenzeneacetic acid (0.3 g) in methanol (30 mL) was treated with 4N sodium hydroxide (0.58 mL) was stirred at reflux for 46 hours. The methanol was removed in vacuo, then the mixture was acidified with 3N hydrochloric acid and extracted with dichloromethane-tetrahydrofuran (1:1). The dried (MgSO4) extracts were evaporated and the solid residue was crystallized from dichloromethane-hexane, and then from acetone-hexane to afford 4-[3-[4-carboxy-3-hydroxy-2-propylphenoxy)propoxy]-alpha-oxobenzeneacetic acid, mp 182°-185° C.

reactant | 4-[3-[3-hydroxy-4-(methoxycarbonyl)-2-propylphenoxy)propoxy]-alphaoxobenzeneacetic acid | 0.3 g | OC=1C(=C(OCCCOC2=CC=C(C=C2)C(C(=O)O)=O)C=CC1C(=O)OC)CCC | C22H24O8
reactant | sodium hydroxide | 4N, 0.58 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 4-[3-[4-carboxy-3-hydroxy-2-propylphenoxy)propoxy]-alpha-oxobenzeneacetic acid | C(=O)(O)C1=C(C(=C(OCCCOC2=CC=C(C=C2)C(C(=O)O)=O)C=C1)CCC)O | C21H22O8
